US04230707
A mixture of 6.0 g (0.038 mol) of 6-chloro-3-pyridinecarboxamide (Aldrich Chemical Company) and 8.0 g (0.040 mol) of 2-amino-5-ethyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, pages 94-100, 1966) is heated in an oil bath at 180° C. for two hours. The mixture is cooled and then suspended in hot chloroform and filtered to give 1.8 g of 2-ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide; mp 278°-280° C. after recrystallization from pyridine.

reactant | 6-chloro-3-pyridinecarboxamide | 0.038 mol, 6.0 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
reactant | 2-amino-5-ethyl-3-thiophenecarboxylic acid, ethyl ester | 0.040 mol, 8.0 g | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide | 1.8 g | C(C)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)N)S1 | C13H11N3O2S
